US04025527
Reaction of 4-hydroxymethyl-5-methylimidazole and 1-mercapto-2-aminobutane in the procedure of Example 1(i) yields 4-methyl-5-[(2-aminobutyl)thiomethyl]imidazole and, when this is reacted with S-methyl-N'-[2-((4-methyl 5-imidazolyl)methylthio)ethyl]thiouronium sulphate in the procedure of Example 1(iii), the title compound is produced.

reactant | 4-hydroxymethyl-5-methylimidazole | OCC=1N=CNC1C | C5H8N2O
reactant | 1-mercapto-2-aminobutane | SCC(CC)N | C4H11NS
product | 4-methyl-5-[(2-aminobutyl)thiomethyl]imidazole | CC=1N=CNC1CSCC(CC)N | C9H17N3S
